US08541414B2
4-(2-Ethylphenyl)-5-hydroxy-2-methyl-3(2H)-pyridazinone (Compound I-a-1)
After 50 mL of water, 4.657 g of potassium hydroxide (content, 85%) and 5 mL of 1,4-dioxane were added to 3.193 g of 4-(2-ethylphenyl)-5-methoxy-2-methyl-3(2H)-pyridazinone (Compound II-1), the mixture was stirred and heated under reflux for 36 hours. After cooling, concentrated hydrochloric acid was added to the reaction mixture to acidify, to which 10 ml of water and 100 ml of ethyl acetate were added. The resulting mixture was filtered to remove insoluble substances and the filtrate was separate to two phase. The organic layer was washed with water and then a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The solid obtained was washed with a mixed solvent of ethyl acetate and hexane (1:2) to yield 2.050 g of the title compound as colorless crystals.

reactant | potassium hydroxide | 4.657 g | [OH-].[K+]
reactant | 4-(2-ethylphenyl)-5-methoxy-2-methyl-3(2H)-pyridazinone | 3.193 g | C(C)C1=C(C=CC=C1)C=1C(N(N=CC1OC)C)=O | C14H16N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 4-(2-Ethylphenyl)-5-hydroxy-2-methyl-3(2H)-pyridazinone | 2.050 g | C(C)C1=C(C=CC=C1)C=1C(N(N=CC1O)C)=O | C13H14N2O2
